* Created by KLayout
*** My special header ***

* cell tr_1um_AUDIO_OPAMP04
* pin P1
* pin P10
* pin P11
* pin P12
* pin P13
* pin P14
* pin P15
* pin P2
* pin P3
* pin P4
* pin P5
* pin P6
* pin P7
* pin P9
* pin VDD
* pin VSS
.SUBCKT tr_1um_AUDIO_OPAMP04 P1 P10 P11 P12 P13 P14 P15 P2 P3 P4 P5 P6 P7 P9
+ VDD VSS
* cell instance $1 r0 *1 0,0
X$1 P13 P11 P4 P15 P14 P5 VDD P2 P3 P7 P1 P6 P9 P12 P10 VSS OSS_FRAME
* cell instance $2 r0 *1 -243.9,-432.9
X$2 P10 P9 P7 P6 P12 P5 P4 VSS 555MOS
* cell instance $3 r0 *1 0,0
X$3 P15 P1 P2 VDD P3 VSS AUDIO_OPAMP01
.ENDS tr_1um_AUDIO_OPAMP04

* cell 555MOS
* pin dischg
* pin rst
* pin trig
* pin vdd
* pin out
* pin th
* pin vctrl
* pin vss
.SUBCKT 555MOS dischg rst trig vdd out th vctrl vss
* device instance $1 r0 *1 112.9,3.9 PMOS
XM$1 \$124 \$78 \$76 vdd PMOS L=2u W=80u AS=140.8p AD=140.8p PS=113.6u PD=113.6u
* device instance $6 r0 *1 -79,46.9 PMOS
XM$6 vdd \$122 \$57 vdd PMOS L=2u W=20u AS=35.2p AD=35.2p PS=41.6u PD=41.6u
* device instance $11 r0 *1 49,46.9 PMOS
XM$11 vdd \$123 \$25 vdd PMOS L=2u W=20u AS=35.2p AD=35.2p PS=41.6u PD=41.6u
* device instance $16 r0 *1 113,46.9 PMOS
XM$16 vdd \$123 \$123 vdd PMOS L=2u W=20u AS=35.2p AD=35.2p PS=41.6u PD=41.6u
* device instance $21 r0 *1 -15,46.9 PMOS
XM$21 vdd \$122 \$122 vdd PMOS L=2u W=20u AS=35.2p AD=35.2p PS=41.6u PD=41.6u
* device instance $26 r0 *1 480,-70.1 PMOS
XM$26 \$80 rst \$21 vdd PMOS L=2u W=40u AS=70.4p AD=70.4p PS=65.6u PD=65.6u
* device instance $31 r0 *1 148.8,-42.5 PMOS
XM$31 \$76 \$27 \$9 vdd PMOS L=2u W=40u AS=70.4p AD=70.4p PS=65.6u PD=65.6u
* device instance $36 r0 *1 83.8,-42.5 PMOS
XM$36 \$76 trig \$10 vdd PMOS L=2u W=40u AS=70.4p AD=70.4p PS=65.6u PD=65.6u
* device instance $41 r0 *1 525.4,-29.5 PMOS
XM$41 out \$63 vss vdd PMOS L=2u W=40u AS=70.4p AD=70.4p PS=65.6u PD=65.6u
* device instance $46 r0 *1 385.6,44.6 PMOS
XM$46 vdd \$78 \$30 vdd PMOS L=2u W=40u AS=70.4p AD=70.4p PS=65.6u PD=65.6u
* device instance $51 r0 *1 320.6,44.6 PMOS
XM$51 vdd \$78 \$78 vdd PMOS L=2u W=40u AS=70.4p AD=70.4p PS=65.6u PD=65.6u
* device instance $56 r0 *1 535.2,-65.7 NMOS
XM$56 vss \$21 dischg vss NMOS L=2u W=40u AS=70.4p AD=70.4p PS=65.6u PD=65.6u
* device instance $61 r0 *1 526.2,46.3 NMOS
XM$61 vdd \$126 out vss NMOS L=2u W=40u AS=70.4p AD=70.4p PS=65.6u PD=65.6u
* device instance $66 r0 *1 620.4,-19.2 NMOS
XM$66 vss \$21 out vss NMOS L=2u W=40u AS=70.4p AD=70.4p PS=65.6u PD=65.6u
* device instance $71 r0 *1 -77.8,-39.7 NMOS
XM$71 vss \$23 \$23 vss NMOS L=2u W=40u AS=70.4p AD=70.4p PS=65.6u PD=65.6u
* device instance $76 r0 *1 -77.8,5.8 NMOS
XM$76 \$121 \$23 vss vss NMOS L=2u W=40u AS=70.4p AD=70.4p PS=65.6u PD=65.6u
* device instance $81 r0 *1 149.1,-78.2 NMOS
XM$81 vss \$9 \$9 vss NMOS L=2u W=20u AS=35.2p AD=35.2p PS=41.6u PD=41.6u
* device instance $86 r0 *1 85.1,-78.2 NMOS
XM$86 vss \$9 \$10 vss NMOS L=2u W=20u AS=35.2p AD=35.2p PS=41.6u PD=41.6u
* device instance $91 r0 *1 320.1,-69.6 NMOS
XM$91 vss \$10 \$13 vss NMOS L=2u W=20u AS=35.2p AD=35.2p PS=41.6u PD=41.6u
* device instance $96 r0 *1 322.2,-35.6 NMOS
XM$96 \$80 \$57 \$13 vss NMOS L=2u W=20u AS=35.2p AD=35.2p PS=41.6u PD=41.6u
* device instance $101 r0 *1 372.4,-69.6 NMOS
XM$101 vss \$13 \$15 vss NMOS L=2u W=20u AS=35.2p AD=35.2p PS=41.6u PD=41.6u
* device instance $106 r0 *1 376,-35.6 NMOS
XM$106 \$80 \$80 \$15 vss NMOS L=2u W=20u AS=35.2p AD=35.2p PS=41.6u PD=41.6u
* device instance $111 r0 *1 428,-69.6 NMOS
XM$111 vss \$15 \$30 vss NMOS L=2u W=20u AS=35.2p AD=35.2p PS=41.6u PD=41.6u
* device instance $116 r0 *1 452.9,9 NMOS
XM$116 vdd \$63 \$126 vss NMOS L=2u W=20u AS=35.2p AD=35.2p PS=41.6u PD=41.6u
* device instance $121 r0 *1 452.9,-22.5 NMOS
XM$121 \$63 \$30 \$21 vss NMOS L=2u W=20u AS=35.2p AD=35.2p PS=41.6u PD=41.6u
* device instance $126 r0 *1 26.1,-45.7 NMOS
XM$126 vss \$25 \$25 vss NMOS L=2u W=20u AS=35.2p AD=35.2p PS=41.6u PD=41.6u
* device instance $131 r0 *1 -29.6,-45.7 NMOS
XM$131 vss \$25 \$57 vss NMOS L=2u W=20u AS=35.2p AD=35.2p PS=41.6u PD=41.6u
* device instance $136 r0 *1 -14.9,8.6 NMOS
XM$136 \$121 th \$122 vss NMOS L=2u W=20u AS=35.2p AD=35.2p PS=41.6u PD=41.6u
* device instance $141 r0 *1 49.1,8.6 NMOS
XM$141 \$121 vctrl \$123 vss NMOS L=2u W=20u AS=35.2p AD=35.2p PS=41.6u PD=41.6u
* device instance $146 r0 *1 184.7,40 F_RR
XR$146 vdd \$124 vdd F_RR R=2.2 L=13.2u W=6u A=79.2p P=38.4u m=1
* device instance $147 r0 *1 395.9,1.3 F_RR
XR$147 \$13 \$30 vdd F_RR R=5.875 L=23.5u W=4u A=94p P=55u m=1
* device instance $148 r0 *1 624,-74.3 F_RR
XR$148 \$21 vss vdd F_RR R=6.15 L=24.6u W=4u A=98.4p P=57.2u m=1
* device instance $149 r0 *1 460.7,42.7 F_RR
XR$149 \$63 vdd vdd F_RR R=6.15 L=24.6u W=4u A=98.4p P=57.2u m=1
* device instance $150 r0 *1 534.8,13.2 F_RR
XR$150 \$126 out vdd F_RR R=6.15 L=24.6u W=4u A=98.4p P=57.2u m=1
* device instance $151 r0 *1 331,1.3 F_RR
XR$151 \$80 \$78 vdd F_RR R=6.15 L=24.6u W=4u A=98.4p P=57.2u m=1
* device instance $152 r0 *1 256.2,-55.4 F_RR
XR$152 vss \$27 vdd F_RR R=10.5 L=42u W=4u A=168p P=92u m=1
* device instance $153 r90 *1 -130.5,19.8 F_RR
XR$153 \$23 vdd vdd F_RR R=10.5 L=42u W=4u A=168p P=92u m=1
* device instance $154 r0 *1 256.2,42.6 F_RR
XR$154 vctrl vdd vdd F_RR R=10.5 L=42u W=4u A=168p P=92u m=1
* device instance $155 r0 *1 256.2,-6.4 F_RR
XR$155 vctrl \$27 vdd F_RR R=10.5 L=42u W=4u A=168p P=92u m=1
.ENDS 555MOS

* cell AUDIO_OPAMP01
* pin 
* pin 
* pin 
* pin 
* pin 
* pin VSS
.SUBCKT AUDIO_OPAMP01 \$1 \$2 \$3 \$4 \$5 VSS
* cell instance $1 r0 *1 -507.4,580.3
X$1 \$4 \$1 \$3 \$5 \$2 VSS opamp_r2r_chihiro
.ENDS AUDIO_OPAMP01

* cell OSS_FRAME
* pin P13
* pin P11
* pin P4
* pin P15
* pin P14
* pin P5
* pin VDD
* pin P2
* pin P3
* pin P7
* pin P1
* pin P6
* pin P9
* pin P12
* pin P10
* pin VSS
.SUBCKT OSS_FRAME P13 P11 P4 P15 P14 P5 VDD P2 P3 P7 P1 P6 P9 P12 P10 VSS
* cell instance $1 r90 *1 1040,200
X$1 P13 VDD VSS OSS_ESD_5V_ANA
* cell instance $2 r90 *1 1040,-600
X$2 P11 VDD VSS OSS_ESD_5V_ANA
* cell instance $3 m45 *1 -1040,200
X$3 P4 VDD VSS OSS_ESD_5V_ANA
* cell instance $4 r180 *1 600,1040
X$4 P15 VDD VSS OSS_ESD_5V_ANA
* cell instance $5 m135 *1 1040,600
X$5 P14 VDD VSS OSS_ESD_5V_ANA
* cell instance $6 r270 *1 -1040,-200
X$6 P5 VDD VSS OSS_ESD_5V_ANA
* cell instance $10 m45 *1 -1040,-600
X$10 P6 VDD VSS OSS_ESD_5V_ANA
* cell instance $11 m135 *1 1040,-200
X$11 P12 VDD VSS OSS_ESD_5V_ANA
* cell instance $12 m90 *1 600,-1040
X$12 P10 VDD VSS OSS_ESD_5V_ANA
* cell instance $14 m0 *1 -600,1040
X$14 P2 VDD VSS OSS_ESD_5V_ANA
* cell instance $15 r270 *1 -1040,600
X$15 P3 VDD VSS OSS_ESD_5V_ANA
* cell instance $16 r180 *1 -200,1040
X$16 P1 VDD VSS OSS_ESD_5V_ANA
* cell instance $17 m0 *1 200,1040
X$17 VDD VSS OSS_ESD_5V_VDD
* cell instance $18 r0 *1 -600,-1040
X$18 P7 VDD VSS OSS_ESD_5V_ANA
* cell instance $19 r0 *1 200,-1040
X$19 P9 VDD VSS OSS_ESD_5V_ANA
* cell instance $20 m90 *1 -200,-1040
X$20 VDD VSS OSS_ESD_5V_VSS
.ENDS OSS_FRAME

* cell opamp_r2r_chihiro
* pin VDD
* pin OUT
* pin INP
* pin 
* pin VB
* pin VSS
.SUBCKT opamp_r2r_chihiro VDD OUT INP \$13 VB VSS
* cell instance $1 r0 *1 0,0
X$1 \$12 \$22 \$14 \$8 \$10 \$11 VB VDD VSS opamp_r2r_CS
* cell instance $2 r0 *1 602.8,25.8
X$2 \$17 \$16 \$7 \$12 \$18 \$11 \$6 \$8 VDD \$4 \$10 \$2 \$15 VSS
+ opamp_r2r_cascode
* cell instance $3 r0 *1 23232.4,196032.5
X$3 OUT \$7 \$6 \$18 VDD \$4 VSS opamp_r2r_ABAMP_chihiro
* cell instance $10 r0 *1 472645.6,105254.3
X$10 \$22 \$12 \$13 \$2 \$15 INP \$17 \$16 \$10 VDD \$14 VSS
+ opamp_r2r_diff_chihiro
.ENDS opamp_r2r_chihiro

* cell OSS_ESD_5V_VDD
* pin PAD,VDD
* pin VSS
.SUBCKT OSS_ESD_5V_VDD PAD|VDD VSS
* cell instance $1 r270 *1 -130,0
X$1 VSS PAD|VDD OSS_PCH_ESD
* cell instance $3 r90 *1 130,0
X$3 PAD|VDD VSS OSS_NCH_ESD
.ENDS OSS_ESD_5V_VDD

* cell OSS_ESD_5V_VSS
* pin VDD
* pin PAD,VSS
.SUBCKT OSS_ESD_5V_VSS VDD PAD|VSS
* cell instance $1 r270 *1 130,0
X$1 VDD PAD|VSS OSS_NCH_ESD
* cell instance $2 r90 *1 -130,0
X$2 PAD|VSS VDD OSS_PCH_ESD
.ENDS OSS_ESD_5V_VSS

* cell OSS_ESD_5V_ANA
* pin PAD
* pin VDD
* pin VSS
.SUBCKT OSS_ESD_5V_ANA PAD VDD VSS
* cell instance $1 r90 *1 130,0
X$1 PAD VSS OSS_NCH_ESD
* cell instance $3 r90 *1 -130,0
X$3 PAD VDD OSS_PCH_ESD
.ENDS OSS_ESD_5V_ANA

* cell opamp_r2r_ABAMP_chihiro
* pin OUT
* pin AB_N
* pin AB_P
* pin CAP_N
* pin VDD
* pin CAP_P
* pin VSS
.SUBCKT opamp_r2r_ABAMP_chihiro OUT AB_N AB_P CAP_N VDD CAP_P VSS
* device instance $1 r0 *1 -22304.2,-195968.2 PMOS
XM$1 OUT AB_P VDD VDD PMOS L=5u W=720u AS=1119p AD=1119p PS=824.6u PD=824.6u
* device instance $25 r0 *1 -22256.2,-196047 NMOS
XM$25 OUT AB_N VSS VSS NMOS L=5u W=360u AS=579p AD=579p PS=428.6u PD=428.6u
* device instance $37 r90 *1 -22477.6,-196057.4 F_CSIO
XC$37 CAP_N OUT VSS F_CSIO C=3.897816e-12 A=6496.36p P=322.4u X=80.5999990463
+ Y=80.6000009537 m=2
* device instance $38 r90 *1 -22477.6,-195958 F_CSIO
XC$38 CAP_P OUT VSS F_CSIO C=3.897816e-12 A=6496.36p P=322.4u X=80.5999990463
+ Y=80.6000009537 m=2
.ENDS opamp_r2r_ABAMP_chihiro

* cell opamp_r2r_cascode
* pin INP_P
* pin INM_P
* pin AB_N
* pin BNI
* pin CAP_N
* pin BNF
* pin AB_P
* pin BPF
* pin VDD
* pin CAP_P
* pin BPI
* pin INP_N
* pin INM_N
* pin VSS
.SUBCKT opamp_r2r_cascode INP_P INM_P AB_N BNI CAP_N BNF AB_P BPF VDD CAP_P BPI
+ INP_N INM_N VSS
* cell instance $1 m90 *1 -126,-100
X$1 AB_N INP_P BNI VSS NFET_CASCODE_MID
* cell instance $2 r0 *1 -30,-50
X$2 CAP_N \$13 INP_P VSS NFET_PHESE
* cell instance $3 m90 *1 -112,-150
X$3 INP_P \$7 VSS VSS NFET_CASCODE_BOTTOM
* cell instance $4 r0 *1 -60,-150
X$4 VSS INP_P VSS VSS NFET_ZEROCAN
* cell instance $11 r0 *1 -196,-150
X$11 INM_P \$7 VSS VSS NFET_CASCODE_BOTTOM
* cell instance $12 r0 *1 -182,-100
X$12 \$7 INM_P BNI VSS NFET_CASCODE_MID
* cell instance $15 r0 *1 -30,-100
X$15 \$13 \$6 \$13 VSS NFET_ZEROCAN
* cell instance $16 r0 *1 -30,-150
X$16 \$6 VSS \$6 VSS NFET_ZEROCAN
* cell instance $17 m90 *1 -160,0
X$17 VDD \$21 \$7 BPF PFET_CASCODE_BOTTOM
* cell instance $18 r0 *1 -240,0
X$18 VDD \$21 \$7 VDD PFET_CASCODE_BOTTOM
* cell instance $19 r0 *1 -221,-50
X$19 VSS \$7 \$21 VSS NFET_CASCODE_TOP
* cell instance $21 m90 *1 -179,-50
X$21 BNF \$7 \$21 VSS NFET_CASCODE_TOP
* cell instance $23 m90 *1 -68,0
X$23 VDD AB_P AB_N VDD PFET_CASCODE_BOTTOM
* cell instance $24 r0 *1 -148,0
X$24 VDD AB_P AB_N BPF PFET_CASCODE_BOTTOM
* cell instance $25 r0 *1 10,-100
X$25 AB_N VSS \$14 VSS NFET_ZEROCAN
* cell instance $26 m90 *1 -87,-50
X$26 VSS AB_N AB_P VSS NFET_CASCODE_TOP
* cell instance $27 r0 *1 -129,-50
X$27 BNF AB_N AB_P VSS NFET_CASCODE_TOP
* cell instance $30 r0 *1 -50,45
X$30 VDD VDD \$13 AB_P PFET_ZEROCAN
* cell instance $33 r0 *1 -50,0
X$33 INP_N VDD CAP_P \$14 PFET_PHESE
* cell instance $34 r0 *1 -4,45
X$34 VDD \$54 \$14 \$14 PFET_ZEROCAN
* cell instance $37 r0 *1 -208,45
X$37 INM_N VDD BPI \$21 PFET_CASCODE_MID
* cell instance $38 r0 *1 -236,90
X$38 VDD VDD INM_N \$21 PFET_CASCODE_TOP
* cell instance $39 m90 *1 -72,90
X$39 VDD VDD INP_N \$21 PFET_CASCODE_TOP
* cell instance $51 m90 *1 -100,45
X$51 INP_N VDD BPI AB_P PFET_CASCODE_MID
* cell instance $58 r0 *1 -4,90
X$58 VDD VDD \$54 \$54 PFET_ZEROCAN
* cell instance $59 r0 *1 -60,90
X$59 VDD VDD INP_N VDD PFET_ZEROCAN
.ENDS opamp_r2r_cascode

* cell opamp_r2r_CS
* pin BNI
* pin BNO
* pin BPO
* pin BPF
* pin BPI
* pin BNF
* pin VB
* pin VDD
* pin VSS
.SUBCKT opamp_r2r_CS BNI BNO BPO BPF BPI BNF VB VDD VSS
* cell instance $1 r0 *1 -240.2,-130.4
X$1 VSS \$6 BNI VSS NFET_CS_BOTTOM
* cell instance $2 r0 *1 -194.1,-87.6
X$2 BNO BNI \$9 VSS NFET_CS_TOP
* cell instance $3 r0 *1 -240.2,39
X$3 VDD VDD BNI VB PFET_CS_BOTTOM
* cell instance $4 r0 *1 5.2,-87.6
X$4 \$22 BNI \$5 VSS NFET_CS_TOP
* cell instance $5 r0 *1 -101,-87.6
X$5 BPI BNI \$8 VSS NFET_CS_TOP
* cell instance $6 r0 *1 -54.8,-87.6
X$6 BPO BNI \$7 VSS NFET_CS_TOP
* cell instance $7 r0 *1 65.2,-87.6
X$7 BPF BNI \$4 VSS NFET_CS_TOP
* cell instance $8 r0 *1 -240.2,-44.8
X$8 \$13 BNI BNI VSS NFET_CS_BOTTOM
* cell instance $9 r0 *1 -240.2,-87.6
X$9 \$13 \$6 BNI VSS NFET_CS_BOTTOM
* cell instance $10 r0 *1 -267.3,-44.8
X$10 VSS BNI VSS VSS NFET_CS_BOTTOM
* cell instance $11 m90 *1 -160,39
X$11 VDD VDD BNO VB PFET_CS_BOTTOM
* cell instance $12 r0 *1 65.2,-130.4
X$12 VSS BNO \$4 VSS NFET_CS_TOP
* cell instance $13 r0 *1 -54.8,-130.4
X$13 VSS BNO \$7 VSS NFET_CS_TOP
* cell instance $14 r0 *1 -101,-130.4
X$14 VSS BNO \$8 VSS NFET_CS_TOP
* cell instance $15 r0 *1 -194.1,-130.4
X$15 VSS BNO \$9 VSS NFET_CS_TOP
* cell instance $20 r0 *1 5.2,-130.4
X$20 VSS \$22 \$5 VSS NFET_CS_TOP
* cell instance $41 r0 *1 -54.8,39
X$41 \$43 VDD BPI BPO PFET_CS_TOP
* cell instance $42 r0 *1 5.2,81
X$42 VDD VDD BPO \$44 PFET_CS_TOP
* cell instance $43 r0 *1 -54.8,81
X$43 VDD VDD BPO \$43 PFET_CS_TOP
* cell instance $48 r0 *1 65.2,0
X$48 \$38 VDD BPF BPF PFET_CS_TOP
* cell instance $49 r0 *1 5.2,-44.8
X$49 BNF BNF \$22 VSS NFET_CS_TOP
* cell instance $52 r0 *1 -148,0
X$52 VDD VDD BPI VDD PFET_CS_BOTTOM
* cell instance $53 r0 *1 -101,0
X$53 VDD \$51 BPI BPI PFET_CS_BOTTOM
* cell instance $54 r0 *1 65.2,39
X$54 \$45 VDD BPI \$38 PFET_CS_TOP
* cell instance $55 r0 *1 5.2,39
X$55 \$44 VDD BPI BNF PFET_CS_TOP
* cell instance $56 r0 *1 -101,81
X$56 VDD VDD \$56 BPI PFET_CS_BOTTOM
* cell instance $57 r0 *1 -101,39
X$57 VDD \$56 \$51 BPI PFET_CS_BOTTOM
* cell instance $70 r0 *1 65.2,81
X$70 VDD VDD \$38 \$45 PFET_CS_TOP
.ENDS opamp_r2r_CS

* cell opamp_r2r_diff_chihiro
* pin BNO
* pin BNI
* pin INM
* pin INP_N
* pin INM_N
* pin INP
* pin INP_P
* pin INM_P
* pin BPI
* pin VDD
* pin BPO
* pin VSS
.SUBCKT opamp_r2r_diff_chihiro BNO BNI INM INP_N INM_N INP INP_P INM_P BPI VDD
+ BPO VSS
* device instance $1 m90 *1 -472368.8,-105215.4 PMOS
XM$1 \$48 INM INM_P VDD PMOS L=5u W=60u AS=109.5p AD=109.5p PS=89.6u PD=89.6u
* device instance $5 r0 *1 -472460.2,-105215.4 PMOS
XM$5 \$48 INP INP_P VDD PMOS L=5u W=60u AS=109.5p AD=109.5p PS=89.6u PD=89.6u
* device instance $9 m90 *1 -472368.8,-105171.5 PMOS
XM$9 \$62 BPI \$48 VDD PMOS L=5u W=60u AS=109.5p AD=109.5p PS=89.6u PD=89.6u
* device instance $13 r0 *1 -472460.2,-105171.5 PMOS
XM$13 \$59 BPI \$48 VDD PMOS L=5u W=60u AS=109.5p AD=109.5p PS=89.6u PD=89.6u
* device instance $17 m90 *1 -472368.8,-105128.9 PMOS
XM$17 \$62 BPO VDD VDD PMOS L=5u W=60u AS=109.5p AD=109.5p PS=89.6u PD=89.6u
* device instance $21 r0 *1 -472460.2,-105128.9 PMOS
XM$21 \$59 BPO VDD VDD PMOS L=5u W=60u AS=109.5p AD=109.5p PS=89.6u PD=89.6u
* device instance $25 r0 *1 -472450.2,-105355 NMOS
XM$25 VSS BNO \$2 VSS NMOS L=5u W=30u AS=64.5p AD=64.5p PS=53.6u PD=53.6u
* device instance $27 r0 *1 -472450.2,-105311.9 NMOS
XM$27 \$16 BNI \$2 VSS NMOS L=5u W=30u AS=64.5p AD=64.5p PS=53.6u PD=53.6u
* device instance $29 m90 *1 -472378.8,-105355 NMOS
XM$29 VSS BNO \$3 VSS NMOS L=5u W=30u AS=64.5p AD=64.5p PS=53.6u PD=53.6u
* device instance $31 m90 *1 -472378.8,-105311.9 NMOS
XM$31 \$16 BNI \$3 VSS NMOS L=5u W=30u AS=64.5p AD=64.5p PS=53.6u PD=53.6u
* device instance $33 m90 *1 -472378.8,-105270.4 NMOS
XM$33 INM_N INM \$16 VSS NMOS L=5u W=30u AS=64.5p AD=64.5p PS=53.6u PD=53.6u
* device instance $35 r0 *1 -472450.2,-105270.4 NMOS
XM$35 INP_N INP \$16 VSS NMOS L=5u W=30u AS=64.5p AD=64.5p PS=53.6u PD=53.6u
.ENDS opamp_r2r_diff_chihiro

* cell OSS_PCH_ESD
* pin PAD
* pin VDD
.SUBCKT OSS_PCH_ESD PAD VDD
* device instance $1 r0 *1 -65.5,0 PMOS
XM$1 VDD VDD PAD VDD PMOS L=2u W=500u AS=3523.04p AD=3523.04p PS=689.36u
+ PD=689.36u
.ENDS OSS_PCH_ESD

* cell OSS_NCH_ESD
* pin PAD
* pin VSS
.SUBCKT OSS_NCH_ESD PAD VSS
* device instance $1 r0 *1 -65.5,0 NMOSE
XM$1 VSS VSS PAD VSS NMOSE L=2u W=500u AS=3523.04p AD=3523.04p PS=689.36u
+ PD=689.36u
.ENDS OSS_NCH_ESD

* cell PFET_CASCODE_TOP
* pin 
* pin 
* pin 
* pin 
.SUBCKT PFET_CASCODE_TOP \$1 \$2 \$3 \$8
* device instance $1 r0 *1 11.8,16.2 PMOS
XM$1 \$1 \$8 \$3 \$2 PMOS L=4u W=96u AS=159.6p AD=159.6p PS=134.6u PD=134.6u
.ENDS PFET_CASCODE_TOP

* cell PFET_PHESE
* pin 
* pin 
* pin 
* pin 
.SUBCKT PFET_PHESE \$1 \$2 \$3 \$6
* device instance $1 r0 *1 11.9,16.2 PMOS
XM$1 \$1 \$6 \$3 \$2 PMOS L=4u W=96u AS=159.6p AD=159.6p PS=134.6u PD=134.6u
.ENDS PFET_PHESE

* cell NFET_CASCODE_BOTTOM
* pin 
* pin 
* pin 
* pin VSS
.SUBCKT NFET_CASCODE_BOTTOM \$1 \$2 \$5 VSS
* device instance $1 r0 *1 4.8,20.6 NMOS
XM$1 \$5 \$2 \$1 VSS NMOS L=4u W=48u AS=87.6p AD=87.6p PS=74.6u PD=74.6u
.ENDS NFET_CASCODE_BOTTOM

* cell NFET_CASCODE_MID
* pin 
* pin 
* pin 
* pin VSS
.SUBCKT NFET_CASCODE_MID \$1 \$2 \$3 VSS
* device instance $1 r0 *1 4.8,20.6 NMOS
XM$1 \$2 \$3 \$1 VSS NMOS L=4u W=24u AS=51.6p AD=51.6p PS=44.6u PD=44.6u
.ENDS NFET_CASCODE_MID

* cell PFET_CASCODE_MID
* pin 
* pin 
* pin 
* pin 
.SUBCKT PFET_CASCODE_MID \$1 \$2 \$3 \$7
* device instance $1 r0 *1 11.8,16.2 PMOS
XM$1 \$1 \$3 \$7 \$2 PMOS L=4u W=48u AS=87.6p AD=87.6p PS=74.6u PD=74.6u
.ENDS PFET_CASCODE_MID

* cell NFET_PHESE
* pin 
* pin 
* pin 
* pin VSS
.SUBCKT NFET_PHESE \$1 \$2 \$5 VSS
* device instance $1 r0 *1 4.8,20.6 NMOS
XM$1 \$5 \$2 \$1 VSS NMOS L=4u W=48u AS=87.6p AD=87.6p PS=74.6u PD=74.6u
.ENDS NFET_PHESE

* cell NFET_CASCODE_TOP
* pin 
* pin 
* pin 
* pin VSS
.SUBCKT NFET_CASCODE_TOP \$1 \$2 \$3 VSS
* device instance $1 r0 *1 4.8,19.3 NMOS
XM$1 \$3 \$1 \$2 VSS NMOS L=4u W=12u AS=33.6p AD=33.6p PS=29.6u PD=29.6u
.ENDS NFET_CASCODE_TOP

* cell NFET_ZEROCAN
* pin 
* pin 
* pin 
* pin VSS
.SUBCKT NFET_ZEROCAN \$1 \$2 \$3 VSS
* device instance $1 r0 *1 4.8,19.3 NMOS
XM$1 \$3 \$1 \$2 VSS NMOS L=4u W=12u AS=33.6p AD=33.6p PS=29.6u PD=29.6u
.ENDS NFET_ZEROCAN

* cell PFET_ZEROCAN
* pin 
* pin 
* pin 
* pin 
.SUBCKT PFET_ZEROCAN \$1 \$2 \$3 \$5
* device instance $1 r0 *1 11.8,16.2 PMOS
XM$1 \$2 \$5 \$3 \$1 PMOS L=4u W=24u AS=51.6p AD=51.6p PS=44.6u PD=44.6u
.ENDS PFET_ZEROCAN

* cell PFET_CASCODE_BOTTOM
* pin 
* pin 
* pin 
* pin 
.SUBCKT PFET_CASCODE_BOTTOM \$1 \$2 \$3 \$5
* device instance $1 r0 *1 11.8,16.2 PMOS
XM$1 \$2 \$5 \$3 \$1 PMOS L=4u W=24u AS=51.6p AD=51.6p PS=44.6u PD=44.6u
.ENDS PFET_CASCODE_BOTTOM

* cell NFET_CS_TOP
* pin 
* pin 
* pin 
* pin VSS
.SUBCKT NFET_CS_TOP \$1 \$2 \$4 VSS
* device instance $1 r0 *1 4.8,17.6 NMOS
XM$1 \$4 \$2 \$1 VSS NMOS L=4u W=12u AS=25.8p AD=25.8p PS=26.6u PD=26.6u
.ENDS NFET_CS_TOP

* cell NFET_CS_BOTTOM
* pin 
* pin 
* pin 
* pin VSS
.SUBCKT NFET_CS_BOTTOM \$1 \$2 \$3 VSS
* device instance $1 r0 *1 4.8,16.3 NMOS
XM$1 \$2 \$3 \$1 VSS NMOS L=4u W=6u AS=16.8p AD=16.8p PS=17.6u PD=17.6u
.ENDS NFET_CS_BOTTOM

* cell PFET_CS_TOP
* pin 
* pin 
* pin 
* pin 
.SUBCKT PFET_CS_TOP \$1 \$2 \$3 \$6
* device instance $1 r0 *1 11.8,13.2 PMOS
XM$1 \$1 \$3 \$6 \$2 PMOS L=4u W=24u AS=43.8p AD=43.8p PS=44.6u PD=44.6u
.ENDS PFET_CS_TOP

* cell PFET_CS_BOTTOM
* pin 
* pin 
* pin 
* pin 
.SUBCKT PFET_CS_BOTTOM \$1 \$2 \$3 \$4
* device instance $1 r0 *1 11.8,13.2 PMOS
XM$1 \$2 \$4 \$3 \$1 PMOS L=4u W=12u AS=25.8p AD=25.8p PS=26.6u PD=26.6u
.ENDS PFET_CS_BOTTOM
